US05563163
Following a procedure similar to that described in Preparation 2, reaction of 18.3 g (0.1 mol) of saccharin with 70 ml of 37% formalin in ethanol afforded 3.58 g (70%) of 2-hydroxymethylsaccharin. The latter (25 g, 0.117 mol) was reacted with 63.3 g (0.234 mol) of phosphorus tribromide in diethyl ether to give 29.8 g (92%) of 2-bromomethylsaccharin, mp 155°-157° C.

reactant | saccharin | 0.1 mol, 18.3 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | formalin | 70 ml | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 2-hydroxymethylsaccharin | 3.58 g, 70% | OCN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO4S
